US04731364
Reflux 15.2 g (47.1 mmole) of cis 3-allyloxy-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl)benzo[b]thiophene-1-oxide and 9.97 mL (70.6 mole) of trifluoroacetic anhydride in 150 mL of toluene for 1 hr. Pour the reaction mixture into 1 liter of CHCl3 and extract it with 1 liter of 5% aqueous Na2CO3 followed by 1 liter of H2O. Dry the organic layer over anhydrous MgSO4 and evaporate the solvent in vacuo. Chromatograph the oily residue on 500 g of silica gel eluting with CHCl3 to give 2-allyl-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl) benzo[b]thiophene-3-one, a gum, m/e 304.

reactant | cis 3-allyloxy-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl)benzo[b]thiophene-1-oxide | 47.1 mmole, 15.2 g | C(C=C)O[C@H]1C2=C(S([C@H]1CN1C=NC=C1)=O)C=C(C=C2)Cl | C15H15ClN2O2S
reactant | trifluoroacetic anhydride | 70.6 mole, 9.97 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | CHCl3 | 1 liter | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-allyl-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl) benzo[b]thiophene-3-one | C(C=C)C1(C(C2=C(S1)C=C(C=C2)Cl)=O)CN2C=NC=C2 | C15H13ClN2OS
